US07259157B2
2-Amino-pyrimidine-5-carboxylic acid [1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amide was prepared from (5-{[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-carbamoyl}-pyrimidin-2-yl)-carbamic acid tert-butyl ester by stirring at rt for 3 h in 4N HCl in dioxane. The product was precipitated as the hydrochloride salt by dilution with ether and filtration.

reactant | (5-{[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-carbamoyl}-pyrimidin-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC=C(C=N1)C(NCC1CCN(CC1)S(=O)(=O)CCC1=CC=CC=C1)=O)=O | C24H33N5O5S
solvent | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Amino-pyrimidine-5-carboxylic acid [1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amide | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CNC(=O)C=1C=NC(=NC1)N | C19H25N5O3S
